US08461346B2
1 g (6.2 mmol) 3-Chloro-2-fluoroanisole in 20 ml THF are cooled to −70° C. and 2.7 ml of a 2.5 M n-butyl lithium solution in hexane are added. After one hour at −70° 3.93 ml DMF in 7 ml THF are added at −70° C. and the mixture is stirred another hour at −70° C. 15 ml of a 1 M aqueous HCl are added and the reaction is warmed to ambient temperature over 18 hours. The reaction mixture is partitioned between diethyl ether and water. The aqueous phase is extracted with diethyl ether, the combined organic phases are washed with brine, dried over sodium sulfate and evaporated. The crude product is purified by chromatography on silica gel to yield 0.25 g 2-chloro-3-fluoro-4-methoxybenzaldehyde. Analogously to example 9, the corresponding imine is produced starting from 411 mg (2.6 mmol) 5-amino-2-methylquinolin and 490 mg (2.6 mmol) 2-chloro-3-fluoro-4-methoxybenzaldehyde in toluene. 800 mg (2.4 mmol) [(2-chloro-3-fluoro-4-methoxyphenyl)methylene]-2-methylquinolin-5-amine in THF are added to 0.42 ml (4.8 mmol) of the lithiated 1,1,1-trifluoroepoxypropane at −100° C. analogously to example 9. Typical work up and chromatographic purification on silica gel (acetone in hexane 0% to 50%) yield 796 mg and 100 mg of two diastereomers of {[2-chloro-3-fluoro-4-methoxyphenyl][2-(trifluoromethyl)oxiranyl]methyl}-2-methylquinolin-5-amine.

reactant | 3-Chloro-2-fluoroanisole | 6.2 mmol, 1 g | ClC=1C(=C(C=CC1)OC)F | C7H6ClFO
reactant | n-butyl lithium | 2.5 M | C(CCC)[Li]
reactant | DMF | 3.93 ml | CN(C)C=O | C3H7NO
reactant | HCl | 1 M | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | 2-chloro-3-fluoro-4-methoxybenzaldehyde | 0.25 g | ClC1=C(C=O)C=CC(=C1F)OC | C8H6ClFO2
